### PR TITLE
feat(LocallyNameless/Untyped): generalize `eta_subst_fvar`

### PR DESCRIPTION
**Pull request by lengyijun**
`step_subst_cong_l` is the more general version

### CODE REVIEW

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 1]
```diff
@@ -155,22 +162,7 @@ lemma close_eta_steps (hx_M : x ∉ M.fv) (st_M : ReflGen FullEta (M ^ fvar x) N
...
-  case abs => grind [Xi.abs <| free_union Var, subst_open_var]
-  all_goals grind
-
-/- `steps_subst_cong_l` can be generalized to multiple reductions `s ↠ηᶠ s'`. -/
-lemma steps_subst_cong_l {x : Var} (s s' N : Term Var) (steps : s ↠ηᶠ s') (lc_N : LC N) :
-    s [ x := N ] ↠ηᶠ s' [ x := N ] := by
-  induction steps with
-  | refl => rfl
-  | tail _ step ih => grind [step_subst_cong_l]
+    exact .single (Xi.abs {x} (by grind [step_subst_cong_l]))
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean:166]: It appears that (at the bottom of `Properties`) that we are missing a version of `close_open_to_subst` specialized to first openings, i.e. `(m ^* x) ^ n = m [x := n]` that if annotated with `grind =` would make the proof generated here better. Could you add this, please?

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 2]
```diff
@@ -81,17 +81,24 @@ lemma step_not_fv (step : M ⭢ηᶠ M') : M.fv = M'.fv := by
...
-  induction step with
-  | abs => apply Xi.abs <| free_union Var; grind
-  | @base M N => grind
-  | _ => grind
+/- `s ⭢ηᶠ s'` implies `s [ x := N ] ⭢ηᶠ s' [ x := N ]`. -/
+lemma step_subst_cong_l {x : Var} (s s' N : Term Var) (step : s ⭢ηᶠ s') (lc_N : LC N) :
+    s [ x := N ] ⭢ηᶠ s' [ x := N ] := by
+  induction step
+  case base h => cases h with | eta lc => exact Xi.base (.eta (subst_lc lc lc_N))
+  case abs => grind [Xi.abs <| free_union Var, subst_open_var]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]: Probably better for performance:

```suggestion
  case abs => apply Xi.abs <| free_union Var; grind
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean [hunk 3]
```diff
@@ -81,17 +81,24 @@ lemma step_not_fv (step : M ⭢ηᶠ M') : M.fv = M'.fv := by
...
+lemma steps_subst_cong_l {x : Var} (s s' N : Term Var) (steps : s ↠ηᶠ s') (lc_N : LC N) :
+    s [ x := N ] ↠ηᶠ s' [ x := N ] := by
+  induction steps with
+  | refl => rfl
+  | tail _ step ih => grind [step_subst_cong_l]
 
 /-- Abstracting then closing preserves a single η-reduction step. -/
 lemma step_abs_close {x} (step : M ⭢ηᶠ M') (lc_M : LC M) : (M ^* x).abs ⭢ηᶠ (M' ^* x).abs := by
-  grind [Xi.abs ∅]
+  grind [step_subst_cong_l, Xi.abs ∅]
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean]: Similarly here

```suggestion
  apply Xi.abs ∅
  grind [step_subst_cong_l]
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean (hunk 1 above)
Comment (lengyijun) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean:166]: What name is given to the new theorem?

Comment (lengyijun) [reply Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/FullEta.lean:166]: #668

**Review by chenson2018 — APPROVED** [review]
Thanks!
